US08633200B2
Methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To methyl 2-(2-bromo-5-methyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate (180 mg, 0.600 mmol) was added POCl3 (1 mL, 10.73 mmol). The reaction mixture was heated at reflux for 1 h. After cooling, the reaction mixture was added drop-wise to ice-water. A brown solid precipitated. The solid was filtered and washed with water to give the title compound (158 mg, 83%). 1H NMR (500 MHz, DMSO-d6) δ ppm 2.56 (3H, s), 3.69 (3H, s), 4.01 (2H, s), 6.99 (1H, s).

reactant | methyl 2-(2-bromo-5-methyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.600 mmol, 180 mg | BrC1=NN2C(NC(=C(C2=O)CC(=O)OC)C)=C1 | C10H10BrN3O3
reactant | POCl3 | 10.73 mmol, 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 158 mg, 83% | BrC1=NN2C(N=C(C(=C2Cl)CC(=O)OC)C)=C1 | C10H9BrClN3O2
